US04451467
Phenyl chloroformate (470 mg) was added to a solution of 420 mg of 6-ethoxycarbonyl-2-hydroxymethyl-5,7-dimethyl-3-[2-(trifluoromethyl)phenyl]-4(3H)-quinazolinone in 5 ml of pyridine. The reaction mixture was stirred at 80° C. for 3 hours, and the solvent was then evaporated off in vacuo. The residue was taken up with ethyl acetate, and the solution was washed successively with 1N aqueous hydrochloric acid and water, and dried over anhydrous sodium sulfate. The ethyl acetate was evaporated off to give 400 mg of crude 6-ethoxycarbonyl-5,7-dimethyl-2-(phenoxycarbonyloxymethyl)-3-[2-(trifluoromethyl)phenyl]-4(3H)-quinazolinone.

reactant | Phenyl chloroformate | 470 mg | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 6-ethoxycarbonyl-2-hydroxymethyl-5,7-dimethyl-3-[2-(trifluoromethyl)phenyl]-4(3H)-quinazolinone | 420 mg | C(C)OC(=O)C=1C(=C2C(N(C(=NC2=CC1C)CO)C1=C(C=CC=C1)C(F)(F)F)=O)C | C21H19F3N2O4
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 6-ethoxycarbonyl-5,7-dimethyl-2-(phenoxycarbonyloxymethyl)-3-[2-(trifluoromethyl)phenyl]-4(3H)-quinazolinone | 400 mg | C(C)OC(=O)C=1C(=C2C(N(C(=NC2=CC1C)COC(=O)OC1=CC=CC=C1)C1=C(C=CC=C1)C(F)(F)F)=O)C | C28H23F3N2O6
